US07495110B2
Acrylonitrile (10.1 ml, 1.1 eq) is added slowly to a solution cooled down to approximately 4° C. of 2-[2-(methylamino)ethyl]pyridine (19.5 ml, 1 eq) in methanol (200 ml). The reaction medium is then stirred for 3 hours at approximately 20° C. then concentrated under reduced pressure at 40° C. in order to produce 3-[(2-pyridin-2-ylethyl)amino]propanenitrile in the form of a yellow oil (25.6 g, 96% yield).

reactant | Acrylonitrile | 10.1 ml, 1.1 eq | C(C=C)#N | C3H3N
reactant | 2-[2-(methylamino)ethyl]pyridine | 19.5 ml, 1 eq | CNCCC1=NC=CC=C1 | C8H12N2
solvent | methanol | 200 ml | CO | CH4O
product | 3-[(2-pyridin-2-ylethyl)amino]propanenitrile | N1=C(C=CC=C1)CCNCCC#N | C10H13N3
